US07829560B2
2′-Fluoro-biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B278).
Compound is prepared from 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide and 2-fluorophenyl boronic acid according to conditions described in general procedure K. 1H NMR 300 MHz (CDCl3) δ 8.3 (d, 1H), 8.15 (s, 1H), 7.18-8.05 (m, 11H), 6.8 (d, 1H, J=10 Hz), 4.3 (t, 2H), 3.75 (m, 4H), 3.0 (t, 2H), 2.6 (m, 4H).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | 2-fluorophenyl boronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 2′-Fluoro-biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)F | C29H27FN2O3
